US04876261
To a suspension of 3.24 g α-(cyano)-6-fluoro-3,4-dimethoxybenzyl alcohol obtained in Reference Example 1 in 20 ml tetrahydrofuran, was added dropwise 33 ml of 1M solution of borane in tetrahydrofuran with stirring in a methanol/ice bath under an argon gas atmosphere, and the resulting solution was heated under reflux for three hours. After cooling the reaction mixture in an ice bath, methanol was added until gas evolution was no longer observed, the resulting solution was stirred at room temperature for one hour, and hydrogen chloride gas was introduced until the pH fell below 1. The crystals which separated out were collected, affording 3.34 g of α-(aminomethyl)-6-fluoro-3,4-dimethoxybenyl alcohol hydrochloride, m.p. 223°-226° C.

reactant | α-(cyano)-6-fluoro-3,4-dimethoxybenzyl alcohol | 3.24 g | C(#N)C(C1=CC(=C(C=C1F)OC)OC)O | C10H10FNO3
reactant | borane | B | BH3
reactant | methanol | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | α-(aminomethyl)-6-fluoro-3,4-dimethoxybenyl alcohol hydrochloride | 3.34 g | Cl.NCC(C1=CC(=C(C=C1F)OC)OC)O | InChI=1S/C10H14FNO3.ClH/c1-14-9-3-6(8(13)5-12)7(11)4-10(9)15-2;/h3-4,8,13H,5,12H2,1-2H3;1H
